US04011230
As in Example 17, reaction of (2-nitro-2-propenyl)benzene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide, gave α-(1-nitroethyl)benzyl dimethyldithiocarbamate melting at 92° C.-94° C. when recrystallized without heating from acetone-ethanol solution.

reactant | (2-nitro-2-propenyl)benzene | [N+](=O)([O-])C(CC1=CC=CC=C1)=C | C9H9NO2
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | α-(1-nitroethyl)benzyl dimethyldithiocarbamate | CN(C(SC(C1=CC=CC=C1)C(C)[N+](=O)[O-])=S)C | C12H16N2O2S2
